US07534797B2
trans-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexyl}-methanol
A THF solution (8 mL) of trans-4-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester was cooled to −78° C. and charged with 1M LiAlH4 in THF (1.5 mL, 1.5 mmol) dropwise; the reaction vessel was removed from the −78° C. cooling bath and stirred at rt for 4 h. The reaction mixture was charged with EtOAc, Na2SO4-10H2O, and silica gel and concentrated in vacuo to yellow solids. The crude material was purified by silica gel column chromatography [Jones Flashmaster, 10 g/70 mL cartridge, eluting with 1% ˜7N NH3 in MeOH/CH2Cl2] to afford the desired product as a yellow solid; 1H NMR (CDCl3, 400MHz) δ 1.17-1.29 (m, 2H), 1.63-1.73 (m, 2H), 1.87-2.07 (m, 4H), 2.12-2.23 (m, 2H), 2.92-3.02 (m, 1H), 3.56 (d, 2H, J=6.0 Hz), 5.25 (s, 2H), 7.13 (d, 1H, J=4.8 Hz), 7.27-7.28 (m, 1H), 7.46-7.50 (m, 1H), 7.52-7.57 (m, 2H), 7.89-7.96 (m, 3H), 8.18-8.21 (m, 2H), 8.27 (d, 1H, J=8.8 Hz), 8.40-8.42 (m, 1H); MS (ES+): m/z 450.0 [MH+]; HPLC: tR=2.4 min (Micromass Platform II, polar—5 min).

reactant | trans-4-[8-amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexanecarboxylic acid methyl ester | COC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C29H27N5O2
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mmol, 1.5 mL | C1CCOC1 | C4H8O
product | trans-{4-[8-Amino-1-(2-phenylquinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclohexyl}-methanol | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@@H]2CC[C@H](CC2)CO | C28H27N5O
